US05243049
A mixture Furo[3,4-c]quinolin-3(1H)-one (100 mg) and aniline (2 mL) was heated at 180° C. for 5 min. After cooling to room temperature the mixture was slowly diluted with hexane and the resulting product was collected and washed with hexane to afford 2-Phenyl-pyrrolo[3,4-c]quinolin-3(1H)-one.

reactant | Furo[3,4-c]quinolin-3(1H)-one | 100 mg | C1OC(C=2C=NC=3C=CC=CC3C21)=O | C11H7NO2
reactant | aniline | 2 mL | NC1=CC=CC=C1 | C6H7N
solvent | hexane | CCCCCC | C6H14
product | 2-Phenyl-pyrrolo[3,4-c]quinolin-3(1H)-one | C1(=CC=CC=C1)N1C(C=2C=NC=3C=CC=CC3C2C1)=O | C17H12N2O
